US04479011
11.6 g (0.05M) of 2,6,6-trimethyl-1-[4-hydroxy-hepta-1,6-dien-4-yl]-cyclohexa-1,3-diene were treated as indicated in the preceding example with 8.6 g (0.075M) of potassium tert-butoxide in 50 ml of DMF. β-Damascenone was obtained in 80% yield (7.1 g).

reactant | 2,6,6-trimethyl-1-[4-hydroxy-hepta-1,6-dien-4-yl]-cyclohexa-1,3-diene | 0.05M, 11.6 g | CC1=C(C(CC=C1)(C)C)C(CC=C)(CC=C)O | C16H24O
reactant | potassium tert-butoxide | 0.075M, 8.6 g | CC(C)([O-])C.[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | β-Damascenone | 80% yield | C/C=C/C(=O)C1=C(C=CCC1(C)C)C | C13H18O
